US07635715B2
P2O5 (12.5 g, 88.1 mmol) was mixed with concentrated H2SO4 (11.2 mL, 81.3 mmol) at 0° C., and the resulting mixture was stirred for 30 minutes. Diethyl 2-(2-(3-chloro-2-fluorophenyl)-2-methylpropanoyl)malonate (1.00 g, 2.48 mmol) was added to the reaction, and the resulting mixture was stirred at 25° C. for 1 hour. The resulting mixture was quenched with ice, and, on melting, was extracted with EtOAc (3×100 mL). The combined organic layers were washed with brine (100 mL), dried over MgSO4, concentrated, and dried in vacuo to give crude ethyl 7-chloro-8-fluoro-4-hydroxy-1,1-dimethyl-2-oxo-naphthalene-3-carboxylate (0.470 g). MS m/e=313 (M+H)+.

reactant | P2O5 | 88.1 mmol, 12.5 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | H2SO4 | 81.3 mmol, 11.2 mL | OS(=O)(=O)O | H2O4S
reactant | Diethyl 2-(2-(3-chloro-2-fluorophenyl)-2-methylpropanoyl)malonate | 2.48 mmol, 1.00 g | ClC=1C(=C(C=CC1)C(C(=O)C(C(=O)OCC)C(=O)OCC)(C)C)F | C17H20ClFO5
product | ethyl 7-chloro-8-fluoro-4-hydroxy-1,1-dimethyl-2-oxo-naphthalene-3-carboxylate | 0.470 g | ClC1=CC=C2C(=C(C(C(C2=C1F)(C)C)=O)C(=O)OCC)O | C15H14ClFO4
